US08084620B2
Step 1 A solution of 5-bromo-1-naphthoic acid (prepared according to the procedure of Hausamann, Chem. Ber., 1876, 9, 1519; 2.00 g, 7.97 mmol) in THF (50 mL) was treated with TEA (2.22 mL, 15.93 mmol), then with isobutyl chloroformate (1.088 g, 7.97 mmol) and the resulting suspension was stirred at rt. After 25 min, the mixture was treated with additional TEA (2.22 mL, 15.93 mmol), then with a solution of N,O-dimethylhydroxylamine hydrochloric acid salt (0.777 g, 7.97 mmol) in water (5 mL), and the mixture was stirred at rt. After 2.5 h, the mixture was concentrated and the residue was taken up in EtOAc and water. The mixture was filtered, the layers were separated, and the organic phase was washed with NaHCO3 (aq), dried and concentrated to provide 5-bromo-N-methoxy-N-methyl-1-naphthamide as a pasty solid (1.03 g, 30%) contaminated with ca. 30% isobutyl 5-bromo-1-naphthoate. Mass spectrum m/z 294, 296 (M+H)+. Without further purification, a solution of this material (1.01 g, 2.404 mmol) in THF (15 mL) was stirred on ice and treated with (4-fluorophenyl)magnesium bromide, 2M in ether (7.21 mL, 14.42 mmol). The solution was stirred on ice and allowed to slowly warm to rt. After 16 h, the mixture was treated with 1 M hydrochloric acid and extracted twice with EtOAc. The combined organic layers were dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from hexane to 85:15 hexane-EtOAc) to provide (5-bromonaphthalen-1-yl)(4-fluorophenyl)methanone as a pale yellow viscous oil (658 mg, 83%). 1H NMR (400 MHz, methanol-d4) δ 8.49 (1H, d, J=8.6 Hz), 7.95 (1H, d, J=8.6 Hz), 7.86-7.93 (3H, m), 7.74 (1H, dd, J=8.5, 7.2 Hz), 7.64-7.68 (1H, m), 7.40 (1H, dd, J=8.5, 7.6 Hz), 7.25 (2H, t, J=8.8 Hz). Mass spectrum m/z 329, 331 (M+H)+.

reactant | isobutyl 5-bromo-1-naphthoate | BrC1=C2C=CC=C(C2=CC=C1)C(=O)OCC(C)C | C15H15BrO2
reactant | (4-fluorophenyl)magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | ether | 14.42 mmol, 7.21 mL | CCOCC | C4H10O
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (5-bromonaphthalen-1-yl)(4-fluorophenyl)methanone | 658 mg, 83% | BrC1=C2C=CC=C(C2=CC=C1)C(=O)C1=CC=C(C=C1)F | C17H10BrFO
